US08664216B2
1′-(8-Chloro-5-methyl-5,6-dihydro-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-1-yl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
A mixture of 1-bromo-8-chloro-5-methyl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene (50 mg, 0.16 mmol), tetrabutylammonium bromide (10 mg, 0.031 mmol) and 3H-spiro[2-benzofuran-1,4′-piperidin]-3-one (65 mg, 0.32 mmol) in sulfolane (0.5 ml) was stirred for 20 h at 160° C. The reaction mixture was poured on water and extracted with tert-butyl methyl ether. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. Residual sulfolane was evaporated by kugelrohrdistillation (120° C., 1-2 mbar). Preparative HPLC with n-heptane/2-propanol (70:30) as eluent gave the title compound (10 mg, 14%) as light yellow solid. MS m/e: 436 (M+H+).

reactant | 1-bromo-8-chloro-5-methyl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene | 0.16 mmol, 50 mg | BrC1=NN=C2CN(CC3=C(N12)C=CC(=C3)Cl)C | C11H10BrClN4
reactant | 3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 0.32 mmol, 65 mg | N1CCC2(CC1)OC(C1=C2C=CC=C1)=O | C12H13NO2
catalyst | tetrabutylammonium bromide | 0.031 mmol, 10 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sulfolane | 0.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1′-(8-Chloro-5-methyl-5,6-dihydro-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-1-yl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 10 mg, 14% | ClC=1C=CC2=C(CN(CC=3N2C(=NN3)N3CCC2(CC3)OC(C3=C2C=CC=C3)=O)C)C1 | C23H22ClN5O2
